US07572921B2
Methyl 3-chloro-5-iodobenzoate was dissolved in anhydrous THF and cooled to 0° C. 1M DIBAL in toluene (13 mL) was added slowly to the reaction solution at that temperature. The reaction mixture was stirred overnight at room temperature. Next morning, another 10 mL of 1M DIBAL in toluene was added and stirred for additional 4 h. When the reaction was complete, the reaction mixture was quenched with saturated solution of potassium sodium tartrate. The reaction mixture wad then extracted with ethyl acetate (×3). The combined organic extracts were dried over Na2SO4 and concentrated to afford the desired (3-chloro-5-iodo-phenyl)-methanol (2.7 g, 98%).

reactant | Methyl 3-chloro-5-iodobenzoate | ClC=1C=C(C(=O)OC)C=C(C1)I | C8H6ClIO2
reactant | DIBAL | 1M | CC(C)C[AlH]CC(C)C
reactant | DIBAL | 1M, 10 mL | CC(C)C[AlH]CC(C)C
solvent | THF | C1CCOC1 | C4H8O
solvent | toluene | 13 mL | C1(=CC=CC=C1)C | C7H8
product | (3-chloro-5-iodo-phenyl)-methanol | 2.7 g, 98% | ClC=1C=C(C=C(C1)I)CO | C7H6ClIO
